US08735417B2
To a solution of 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid (36 mg, 0.08 mmol) in N,N-dimethylformamide (0.8 mL) was added ammonium chloride (13 mg, 0.24 mmol), diisopropylethylamine (56 L, 0.32 mmol), and (1H-benzotriazol-1-yloxy)(tripyrrolidin-1-yl)phosphonium hexafluorophosphate (83 mg, 0.16 mmol). The mixture was stirred for 60 minutes at room temperature. The mixture was diluted with ethyl acetate (30 mL), and washed with 1:1 saturated sodium bicarbonate:brine (30 mL), and 1:1 water:brine (30 mL). The aqueous fractions were further extracted with ethyl acetate (30 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by reverse phase HPLC to provide 8 mg (0.018 mmol, 22% yield) of 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxamide as a white solid. MS APCI: [M+H]+ m/z 449.1. 1H NMR (400 MHz, DMSO) δ 10.26 (s, 1H), 8.84 (d, J=4.8 Hz, 1H), 8.01 (s, 1H), 7.55-7.51 (m, 2H), 7.35-7.29 (m, 3H), 7.16 (d, J=7.6 Hz, 1H), 6.84 (s, 1H), 3.93 (m, 2H), 3.09 (m, 2H), 2.37 (m, 1H), 1.97-1.70 (m, 2H), 1.62 (m, 2H). rhSyk=++.

reactant | 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylic acid | 0.08 mmol, 36 mg | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)O)(F)F | C20H18F3N5O2S
reactant | ammonium chloride | 0.24 mmol, 13 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.32 mmol, 56 L | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1H-benzotriazol-1-yloxy)(tripyrrolidin-1-yl)phosphonium hexafluorophosphate | 0.16 mmol, 83 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | N,N-dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]piperidine-4-carboxamide | 0.018 mmol, 8 mg, 22% yield | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)N)(F)F | C20H19F3N6OS
